US04409220
(b) 2-Amino-7-benzyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine
2.4 gm (0.01 mol) of 7-benzyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine were dissolved in 20 ml of dimethylaniline, 3.9 gm (0.1 mol) of sodium amide were added, and the mixture was heated for four hours at 170° C. Thereafter, the dimethylaniline was distilled off in a high vacuum, the residue was taken up in 4 N sodium hydroxide, and the solution was extracted with chloroform. The chloroform extract solution was dried and column-chromatographically purified on silicagel with methanol/methylene chloride (3:1) as the mobile phase.

reactant | 7-benzyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine | 0.01 mol, 2.4 gm | C(C1=CC=CC=C1)N1CCC2=C(CC1)N=CC=N2 | C15H17N3
reactant | sodium amide | 0.1 mol, 3.9 gm | [NH2-].[Na+]
solvent | dimethylaniline | 20 ml | CN(C1=CC=CC=C1)C | C8H11N
product | 2-Amino-7-benzyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine | NC=1C=NC2=C(CCN(CC2)CC2=CC=CC=C2)N1 | C15H18N4
